US04560692
(b) N-ethylisonicotinamide
A mixture of 200 ml of ethanol and 20 ml water was cooled in an ice bath and saturated with ethylamine for 0.5 hr. then 80 g of crude methyl isonicotinate was added with cooling. Ethylamine was again bubbled onto the reaction mixture for 10 min and then it was allowed to stand overnight at room temperature. It was then concentrated in vacuo to leave 82.82 g of a pale oil which became semisolid on cooling.

reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | ethylamine | C(C)N | C2H7N
reactant | methyl isonicotinate | 80 g | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
solvent | water | 20 ml | O | H2O
product | N-ethylisonicotinamide | 82.82 g | C(C)NC(C1=CC=NC=C1)=O | C8H10N2O
